2100-11-06 06:51:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   No overnight events
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2100-11-6**] 06:26 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-11-6**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38.1
C (100.6
   HR: 92 (77 - 92) bpm
   BP: 143/74(92) {131/70(85) - 162/94(111)} mmHg
   RR: 16 (13 - 21) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
             507 mL
   PO:
             TF:
   IVF:
   507 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    700 mL
   Urine:
   700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                   -193 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///26/
   Physical Examination
   General: Cachectic, awake, oriented to person and able to say that this
   is [**Hospital1 **] but not the floor or date, no acute distress
   HEENT: Sclera anicteric, MM dry, oropharynx clear
   Neck: supple, no neck stiffness, JVP not elevated
   Lungs: Clear to auscultation bilaterally in anterior lung fields, no
   wheezes, rales, ronchi
   Heart: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
   gallops
   Abdomen: soft, non-tender, non-distended
   Ext: warm, well perfused
   Skin: Vessicular rash over right breast extending to the axilla and
   slightly to the back.
   Neuro: Exam limited by patient compliance.  Able to move all four
   extrmeties slowly with prompting.  Reflexes 3+ bilat.
   Labs / Radiology
   219 K/uL
   9.5 g/dL
   164 mg/dL
   0.9 mg/dL
   26 mEq/L
   3.9 mEq/L
   13 mg/dL
   95 mEq/L
   130 mEq/L
   27.9 %
   5.0 K/uL
        [image002.jpg]
                            [**2100-11-6**]  03:32 AM
   WBC
   5.0
   Hct
   27.9
   Plt
   219
   Cr
   0.9
   Glucose
   164
   Other labs: PT / PTT / INR:13.2/30.0/1.1, Ca++:8.5 mg/dL, Mg++:1.9
   mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   66 year old female with recent diagnosis of HIV/AIDS on HAART last CD4
   count 253 and, depression and mild dementia who presents from home with
   a vesicular rash, confusion and fevers.
   .
   # Fevers/AMS/Headache: Fevers:  Her worsening mental status and
   increasing leukocytosis on CSF is concerning for evolving bacterial
   meningitis or viral meningoencephalitis. Also in the differential will
   be toxoplasmosis and cryptococcus.  Cover broadly with acyclovir,
   ceftriaxone, amoxicillin and vancomycin. Given her hyperreflexia and
   spasticity, will appreciate neurology recommendations.  Acute worsening
   is concerning for basal exudate blocking CSF drainage producing
   hydrocephalus per Neurology.
   - MRI head w/ and w/o contrast to check for meningeal enhancement or
   other sources of her somnolence.
   - neurology recs
   - ID recs
   - f/u blood cultures
   - f/u CSF cultures and differential
   - precautions and negative pressure room for possible disseminated
   zoster.
   - will treat empirically with bacterial or viral meningitis with
   ceftriaxone, ampicillin, vancomycin and acyclovir
   - IVF while patient is on IV hydration for renal protection
   - EEG in AM
   - droplet and respiratory precautions
   - Add on [**Male First Name (un) 9577**] virus and cytology to CSF fluid
   .
   # Hyponatremia: Decreasing Na; appears euvolemic hyponatremia
   - Will change all medications to NS instead of D5w if possible
   - PM lytes to trend
   .
   # ? PNA on CXR: Vague opacity at the left lung base which is worrisom
   for infection.  No cough/cold.
   - antibiotics as above.
   .
   # Rash:  Her rash is classic for zoster and her direct antigen test was
   positive for VZV and negative for HSV.
   - acyclovir as above
   .
   # HIV/AIDS: diagnosed in [**6-/2100**] when she presented with PCP pneumonia,
   most recent CD4 count 253.
   - continue norvir, reyataz and truvada
   - continue bactrim and azithromycin for prophylaxis
   .
   # Type II Diabetes: Diet controlled.
   - finger sticks
   - humalog sliding scale
   .
   # Depression with psychotic features:  ? HIV dementia.
   - cotninue mirtazapine 15 mg QHS
   - continue abilify 20 mg daily
   .
   # Anemia: Hematocrit currently at baseline.
   - monitor hematocrit
   ICU Care
   Nutrition: NPO given mental status
   Glycemic Control:  ISS
   Lines:
   20 Gauge - [**2100-11-6**] 12:42 AM
   Prophylaxis:
   DVT: Subutaneous heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Patient and patient's husband
   [**Name (NI) 156**] status: Full, confirmed with patient's husband
   Disposition: pending definitive diagnosis and treatment plan

2100-11-06 09:50:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Hx of HIV dx [**6-/2100**] with dx of PCP, [**Name Initial (NameIs) **] CD4 253, T cell lymphoma x/p
   UV light tx in '[**92**], depression with psych features vs HIV dementia,
   anemia.  presented with confusion, fever, anorexia, new rash on right
   breast. Transferred from the floor. Had LP on [**11-4**] - neg cultures, 14
   wbc. Mental status fluctuated. LP yesterday showed 133 white cells on
   4th tube, 69% polys, gram stain no orgs. MRI prelim read no evidence of
   encephalitis.
   24 Hour Events:
   Transferred for concern of progressive mental status changes and
   concern for respiratory compromise. Overnight remained alert, oriented
   to person, hospital, lethargic.
   VZV direct Ag positive c/w zoster given vesicular rash
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2100-11-6**] 06:26 AM
   Other medications:
   Acyclovir 500 mg q8h/Ampicillin q6h/Ceftriaxone 2gm q12/Vanco 1 gm q24.
   HAART, azithro, Bactrim
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-11-6**] 09:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.8
C (100
   HR: 93 (77 - 93) bpm
   BP: 149/82(99) {131/70(85) - 162/94(111)} mmHg
   RR: 20 (13 - 21) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
             748 mL
   PO:
             TF:
   IVF:
   748 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    800 mL
   Urine:
   800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    -52 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///26/
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Neck supple, no Kernig
s sign
   Lymphatic: Cervical WNL, Cardiovascular: (S1: Normal), (S2: Normal),
   (Murmur: No(t) Systolic)
   Peripheral Vascular: PPP
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   ant)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm, Rash on right breast - zoster
   Neurologic:  Somnolent but arousable, answers questions
   Labs / Radiology
   9.5 g/dL
   219 K/uL
   164 mg/dL
   0.9 mg/dL
   26 mEq/L
   3.9 mEq/L
   13 mg/dL
   95 mEq/L
   130 mEq/L
   27.9 %
   5.0 K/uL
        [image002.jpg]
                            [**2100-11-6**]  03:32 AM
   WBC
   5.0
   Hct
   27.9
   Plt
   219
   Cr
   0.9
   Glucose
   164
   Other labs: PT / PTT / INR:13.2/30.0/1.1, Lactic Acid:1.5, Ca++:8.5
   mg/dL, Mg++:1.9 mg/dL, PO4:4.4 mg/dL
   Fluid analysis / Other labs: Hct stable, 29 yest.
   Na trending down from 133 yest
   Microbiology: Utox neg, VZV direct Ag positive (?skin), HSV 1 and 2
   negative
   Assessment and Plan
 .H/O HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   66 y.o. woman with HIV/AIDs, component of dementia presenting with
   acute on chronic mental status changes, workup consistent with
   meningitis or meningoencephalitis with continued decline despite
   initiation of broad antiviral/antibacterial coverage guided by ID
   consultation.  MRI
 preliminary read shows no new findings to explain
   deterioration.   Exam notable for somnolence but arousable, improved
   since earlier in the morning, and vesicular rash over right
   breast/axilla/back consistent with T3 zoster. There is evidence of
   meningitis on CSF. Being covered broadly, cultures pending. MRI prelim
   shows no evidence of encephalitis. EEG will likely be done today per
   neuro
s recommendation. She is at risk of seizures. Will try to send
   CSF for cytology and [**Male First Name (un) 9577**] virus (given hx of lymphoma).
   Agree with plan as summarized in Dr [**Last Name (STitle) 9271**].
   Monitor in ICU given labile neurological status.
   ICU Care
   Nutrition: NPO for now
   Glycemic Control:  Regular insulin sliding scale
   Lines: PIV
   Prophylaxis: DVT: SQ UF Heparin
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill. [**Month (only) 8**] be able to transfer to floor later or in
   AM if mental status improves.

2100-11-07 07:13:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EEG - At [**2100-11-6**] 01:24 PM
 CALLED OUT
   - patient appears more responsive than prior reports
   - multiple CSF studies sent, ID and neuro following
   - continued current regimen of abx
   - concern about what sample the positive zoster sample came from, not
   labeled, virology should get back to us in the morning (likely skin)
   - called out to [**Hospital Ward Name 383**] 2 but no bed so far
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2100-11-6**] 09:09 PM
   Ceftriaxone - [**2100-11-6**] 09:09 PM
   Acyclovir - [**2100-11-7**] 12:21 AM
   Ampicillin - [**2100-11-7**] 02:02 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium - [**2100-11-7**] 05:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-11-7**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.7
C (99.8
   HR: 73 (68 - 113) bpm
   BP: 138/68(86) {123/67(82) - 149/85(99)} mmHg
   RR: 18 (10 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  1,938 mL
                                                                    910 mL
   PO:
             TF:
   IVF:
                                                                  1,938 mL
                                                                    910 mL
   Blood products:
   Total out:
                                                                  1,770 mL
                                                                    660 mL
   Urine:
                                                                  1,770 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    168 mL
                                                                    250 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///26/
   Physical Examination
   General: Cachectic, awake, oriented to person, month and able to say
   that this is [**Hospital Ward Name 383**] 2 (still thinks she
s on [**Hospital Ward Name **]), no acute
   distress
   HEENT: Sclera anicteric, MM dry, oropharynx clear
   Neck: supple, no neck stiffness, JVP not elevated
   Lungs: Clear to auscultation bilaterally in anterior lung fields, no
   wheezes, rales, ronchi
   Heart: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
   gallops
   Abdomen: soft, non-tender, non-distended
   Ext: warm, well perfused
   Skin: Vessicular rash over right breast extending to the axilla and
   slightly to the back.
   Neuro: Exam limited by patient compliance.  Able to move all four
   extrmeties slowly with prompting.  Reflexes 3+ bilat.
   Labs / Radiology
   210 K/uL
   9.5 g/dL
   128 mg/dL
   0.9 mg/dL
   26 mEq/L
   3.7 mEq/L
   13 mg/dL
   95 mEq/L
   131 mEq/L
   27.9 %
   3.4 K/uL
        [image002.jpg]
                            [**2100-11-6**]  03:32 AM
                            [**2100-11-6**]  08:53 PM
                            [**2100-11-7**]  04:18 AM
   WBC
   5.0
   3.4
   Hct
   27.9
   27.9
   Plt
   219
   210
   Cr
   0.9
   0.9
   0.9
   Glucose
   164
   131
   128
   Other labs: PT / PTT / INR:15.7/150.0/1.4, Ca++:8.7 mg/dL, Mg++:2.1
   mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   66 year old female with recent diagnosis of HIV/AIDS on HAART last CD4
   count 253 and, depression and mild dementia who presents from home with
   a vesicular rash, confusion and fevers.
   .
   # Fevers/AMS/Headache: Fevers:  Mental status improved today, more
   oriented and involved in exam, her worsening mental status and
   increasing leukocytosis on CSF is concerning for evolving bacterial
   meningitis or viral meningoencephalitis. Also in the differential will
   be toxoplasmosis and cryptococcus.  Continue to cover broadly with
   acyclovir, ceftriaxone, ampicillin and vancomycin. Given her
   hyperreflexia and spasticity, will appreciate neurology
   recommendations.  Acute worsening is concerning for basal exudate
   blocking CSF drainage producing hydrocephalus per Neurology.
   - MRI head w/ and w/o contrast negative for encephalitis.
   - neurology following appreciate recs
   - ID following appreciate recs
   - f/u blood cultures
all with NGTD
   - f/u CSF cultures, additional viral PCR
s  and cytology
   - precautions and negative pressure room for possible disseminated
   zoster, f/u on what sample DAT came from
   - IVF while patient is on IV hydration for renal protection
   - F/U EEG read
   - droplet and respiratory precautions
   .
   # Hyponatremia: Decreasing Na; currently appears hypovolemic
   hyponatremia, will continue IVF with D5NS and recheck PM lytes to make
   sure that the sodium is not getting worse
   - Will change all medications to NS instead of D5w
   - Nutrition consult for tube feeds, likely needs more solute given
   recent extended period of npo
   .
   # ? PNA on CXR: Vague opacity at the left lung base which is concerning
   for infection.  No cough/cold.
   - azithromycin changed to treatment doses per ID
   .
   # Rash:  Her rash is classic for zoster and her direct antigen test was
   positive for VZV and negative for HSV.
   - acyclovir as above
   - continue precautions
   .
   # HIV/AIDS: diagnosed in [**6-/2100**] when she presented with PCP pneumonia,
   most recent CD4 count 253.
   - continue norvir, reyataz and truvada
NGT now in place for medication
   administration
   - continue bactrim for prophylaxis, currently on treatment doses of
   azithromycin as per ID once treatment course is complete will change
   back to ppx dosing
   .
   # Type II Diabetes: Previously diet controlled.
   - Q6h finger sticks
   - humalog sliding scale
   .
   # Depression with psychotic features:  ? HIV dementia vs. possible
   infectious process
   - cotninue mirtazapine 15 mg QHS
   - continue abilify 20 mg daily
   .
   # Anemia: Hematocrit currently at baseline.
   - continue to monitor
   ICU Care
   Nutrition: NPO for now, will place NGT and consult nutrition for tube
   feeds
   Glycemic Control:
   Lines:
   18 Gauge - [**2100-11-6**] 08:00 AM
   Prophylaxis:
   DVT: pneumo boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full Code
   Disposition: Called out to [**Hospital Ward Name 383**] 2

2100-11-07 12:12:00 Physician Attending Progress Note
Chief Complaint: altered MS
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Hx reviewed, details in admission note
   24 Hour Events:
   Becoming more responsive.
   NG tube inserted
   EEG done - not yet read
                              History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2100-11-6**] 09:09 PM
   Ampicillin - [**2100-11-7**] 07:54 AM
   Ceftriaxone - [**2100-11-7**] 07:54 AM
   Acyclovir - [**2100-11-7**] 09:09 AM
   Other ICU medications:
   Heparin Sodium - [**2100-11-7**] 05:13 AM
   Other medications:
   SCH d/c'd today. Other meds reviewed.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-11-7**] 12:11 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.9
C (100.3
   HR: 72 (68 - 113) bpm
   BP: 150/79(95) {123/67(82) - 153/85(99)} mmHg
   RR: 14 (10 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  1,942 mL
                                                                  1,731 mL
   PO:
             TF:
   IVF:
                                                                  1,942 mL
                                                                  1,661 mL
   Blood products:
   Total out:
                                                                  1,770 mL
                                                                  1,140 mL
   Urine:
                                                                  1,770 mL
                                                                  1,140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    172 mL
                                                                    591 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Warm, Vesicular rash over right breast
   Neurologic:  Less somnolent, oriented to hospital, [**Last Name (un) 2761**] as president,
   distractable
   Labs / Radiology
   9.5 g/dL
   210 K/uL
   128 mg/dL
   0.9 mg/dL
   26 mEq/L
   3.7 mEq/L
   13 mg/dL
   95 mEq/L
   131 mEq/L
   27.9 %
   3.4 K/uL
        [image002.jpg]
                            [**2100-11-6**]  03:32 AM
                            [**2100-11-6**]  08:53 PM
                            [**2100-11-7**]  04:18 AM
   WBC
   5.0
   3.4
   Hct
   27.9
   27.9
   Plt
   219
   210
   Cr
   0.9
   0.9
   0.9
   Glucose
   164
   131
   128
   Other labs: PT / PTT / INR:14.0/136.7/1.2, Fibrinogen:518 mg/dL,
   Ca++:8.7 mg/dL, Mg++:2.1 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   66 y.o. woman with HIV/AIDs, component of dementia presenting with
   acute on chronic mental status changes, workup consistent with
   meningitis vs.meningoencephalitis with some improvement since
   yesterday. She has been on broad antiviral/antibacterial coverage
   guided by ID consultation.  MRI shows no new findings to explain
   deterioration. Exam notable for somnolence but arousable, improved over
   past 24 hrs, and vesicular rash over right breast/axilla/back
   consistent with T3 zoster. There is evidence of meningitis on CSF. EEG
   done - not yet reported. CSF was sent for cytology and [**Male First Name (un) 9577**] virus (given
   hx of lymphoma). Being covered broadly, will need to f/u on cultures.
   Need to confirm with lab that zoster culture was in fact a skin biopsy,
   not CSF.
   Agree with plan as summarized in Dr [**Last Name (STitle) 9311**].
   Stable for transfer to floor.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2100-11-6**] 08:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2100-11-08 07:06:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 CALLED OUT
   This is a 66 year old female with recent diagnosis of HIV/AIDS on HAART
   last CD4 count 253 and, depression and mild dementia who presents from
   home with a vesicular rash, confusion and fevers. The patient was in
   her usual state of health approximately one week ago. Her husband has
   noticed for the past 3-4 days she has seemed more confused than normal.
   At the same time she has developed a right sided vesicular rash which
   is located over her right breast. The rash is painful and mildly
   pruritic. She has had mild fevers at home to as high as 100.1 without
   chills. She has not had headache, photophobia or neck stiffness. She
   has not had chest pain or difficulty breathing. No nausea, vomiting,
   adominal pain, diarrhea, constipation, dysuria, hematuria, leg pain or
   swelling. She has had decreased PO intake for the past week. She did
   have one episode of urinary incontinence which is unusual for her and
   no episodes of bowel incontinence. She was seen by her VNA on the day
   of presentation who noted her to be mildly confused with a temperature
   of 100.1. Her primary care physician was [**Name (NI) 161**] who recommended
   transfer to the emergency room.
   .
   In the ED, initial vs were: T: 102 BP: 136/75 P: 85 R: 16 O2: 100% on
   RA. She had a CXR which showed a possible small left lower lobe
   opacity. She had a head CT without acute changes. ECG without acute
   changes.  She had a lumbar puncture which showed 18 WBC in tube 4 with
   16 RBC, 61% neutrophils. Protein was 62, glucose 66. She received
   ceftriaxone 2 grams IV x 1 and azithromycin 500 mg PO x 1. She weas
   admitted to the floor for further workup.
   .
   On the floor she is somnolent but alert and oriented x 3 initially.
   She became less responsive through out the day.  She was still able to
   open eyes to verbal stimuli but stopped following commands.  Repeat CSF
   today had 133 with 69% PMNs, protein 114 and glucose 54, concerning for
   evolving meningoencephalitis.  She was transfered to [**Hospital Unit Name 4**] for further
   care.  Brain MR w/wo contrast is obtained prior to transfer per
   Neurology recs.
   .
   On arrival to [**Hospital Unit Name 4**], patient does not have any complaints.  She denies
   chest pain, shortness of breath, headache, weakness,
   photophobia/phonophobia, weakness or numbness.  She denies cough, cold,
   diarrhea, constipation, dysuria, blood in stool or urine.
   - NG tube placed this AM for po/ng meds
   - varicella + but unclear from which specimen, likely from skin
   - EEG read not back yet-- f/u on Monday
   - continues on Azithro for possible pna; Ceftriaxone, Acyclovir,
   Ampicillin, TMP-SMX, Vanc
   - once finishes treatment course of Azithro, should go back to ppx dose
   - Coags back down to normal ; consider keeping pneumoboots vs adding
   back subq heparin at lower dose decreased to [**Hospital1 **]
   - mental status greatly improved over course of day; pt verbally
   communicating better
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2100-11-7**] 08:00 PM
   Vancomycin - [**2100-11-7**] 08:28 PM
   Acyclovir - [**2100-11-8**] 12:47 AM
   Ampicillin - [**2100-11-8**] 02:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-11-8**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37
C (98.6
   HR: 70 (69 - 100) bpm
   BP: 146/72(88) {121/60(76) - 153/81(97)} mmHg
   RR: 16 (0 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  4,149 mL
                                                                    625 mL
   PO:
             TF:
                                                                    200 mL
                                                                    262 mL
   IVF:
                                                                  3,709 mL
                                                                    263 mL
   Blood products:
   Total out:
                                                                  2,320 mL
                                                                    820 mL
   Urine:
                                                                  2,320 mL
                                                                    820 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,829 mL
                                                                   -195 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///25/
   Physical Examination
   General: Cachectic, awake, oriented to person, month and able to say
   that this is [**Hospital Ward Name 383**] 2 (still thinks she
s on [**Hospital Ward Name **]), no acute
   distress
   HEENT: Sclera anicteric, MM dry, oropharynx clear
   Neck: supple, no neck stiffness, JVP not elevated
   Lungs: Clear to auscultation bilaterally in anterior lung fields, no
   wheezes, rales, ronchi
   Heart: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
   gallops
   Abdomen: soft, non-tender, non-distended
   Ext: warm, well perfused
   Skin: Vessicular rash over right breast extending to the axilla and
   slightly to the back.
   Neuro: Exam limited by patient compliance.  Able to move all four
   extrmeties slowly with prompting.  Reflexes 3+ bilat.
   Labs / Radiology
   205 K/uL
   9.1 g/dL
   115 mg/dL
   0.8 mg/dL
   25 mEq/L
   3.8 mEq/L
   12 mg/dL
   97 mEq/L
   132 mEq/L
   26.1 %
   2.9 K/uL
        [image002.jpg]
                            [**2100-11-6**]  03:32 AM
                            [**2100-11-6**]  08:53 PM
                            [**2100-11-7**]  04:18 AM
                            [**2100-11-7**]  05:50 PM
                            [**2100-11-8**]  04:41 AM
   WBC
   5.0
   3.4
   2.9
   Hct
   27.9
   27.9
   26.1
   Plt
   [**Telephone/Fax (3) 9597**]
   Cr
   0.9
   0.9
   0.9
   0.8
   0.8
   Glucose
   164
   131
   128
   122
   115
   Other labs: PT / PTT / INR:12.3/29.7/1.0, Fibrinogen:518 mg/dL,
   Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   66 year old female with recent diagnosis of HIV/AIDS on HAART last CD4
   count 253 and, depression and mild dementia who presents from home with
   a vesicular rash, confusion and fevers.
   .
   # Fevers/AMS/Headache: Fevers:  Mental status improved today, more
   oriented and involved in exam, her worsening mental status and
   increasing leukocytosis on CSF is concerning for evolving bacterial
   meningitis or viral meningoencephalitis. Also in the differential will
   be toxoplasmosis and cryptococcus.  Continue to cover broadly with
   acyclovir, ceftriaxone, ampicillin and vancomycin. Given her
   hyperreflexia and spasticity, will appreciate neurology
   recommendations.  Acute worsening is concerning for basal exudate
   blocking CSF drainage producing hydrocephalus per Neurology.
   - MRI head w/ and w/o contrast negative for encephalitis.
   - neurology following appreciate recs
   - ID following appreciate recs
   - f/u blood cultures
all with NGTD
   - f/u CSF cultures, additional viral PCR
s  and cytology
   - precautions and negative pressure room for possible disseminated
   zoster, f/u on what sample DAT came from
   - IVF while patient is on IV hydration for renal protection
   - F/U EEG read
   - droplet and respiratory precautions
   .
   # Hyponatremia: Decreasing Na; currently appears hypovolemic
   hyponatremia, will continue IVF with D5NS and recheck PM lytes to make
   sure that the sodium is not getting worse
   - Will change all medications to NS instead of D5w
   - Nutrition consult for tube feeds, likely needs more solute given
   recent extended period of npo
   .
   # ? PNA on CXR: Vague opacity at the left lung base which is concerning
   for infection.  No cough/cold.
   - azithromycin changed to treatment doses per ID
   .
   # Rash:  Her rash is classic for zoster and her direct antigen test was
   positive for VZV and negative for HSV.
   - acyclovir as above
   - continue precautions
   .
   # HIV/AIDS: diagnosed in [**6-/2100**] when she presented with PCP pneumonia,
   most recent CD4 count 253.
   - continue norvir, reyataz and truvada
NGT now in place for medication
   administration
   - continue bactrim for prophylaxis, currently on treatment doses of
   azithromycin as per ID once treatment course is complete will change
   back to ppx dosing
   .
   # Type II Diabetes: Previously diet controlled.
   - Q6h finger sticks
   - humalog sliding scale
   .
   # Depression with psychotic features:  ? HIV dementia vs. possible
   infectious process
   - cotninue mirtazapine 15 mg QHS
   - continue abilify 20 mg daily
   .
   # Anemia: Hematocrit currently at baseline.
   - continue to monitor
   ICU Care
   Nutrition: NPO for now, will place NGT and consult nutrition for tube
   feeds
   Glycemic Control:
   Lines:
   18 Gauge - [**2100-11-6**] 08:00 AM
   Prophylaxis:
   DVT: pneumo boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full Code
   Disposition: Called out to [**Hospital Ward Name 383**] 2

2100-11-08 11:36:00 Physician Attending Progress Note
Chief Complaint: Altered mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Mental status continues to improve.
 CALLED OUT
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2100-11-8**] 07:56 AM
   Ceftriaxone - [**2100-11-8**] 07:58 AM
   Bactrim (SMX/TMP) - [**2100-11-8**] 07:58 AM
   Acyclovir - [**2100-11-8**] 07:59 AM
   Vancomycin - [**2100-11-8**] 08:00 AM
   Azithromycin - [**2100-11-8**] 09:54 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2100-11-8**] 11:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 38.2
C (100.7
   HR: 74 (69 - 90) bpm
   BP: 136/73(88) {121/60(76) - 153/81(97)} mmHg
   RR: 18 (0 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  4,149 mL
                                                                  2,257 mL
   PO:
             TF:
                                                                    200 mL
                                                                    400 mL
   IVF:
                                                                  3,709 mL
                                                                  1,757 mL
   Blood products:
   Total out:
                                                                  2,320 mL
                                                                  1,700 mL
   Urine:
                                                                  2,320 mL
                                                                  1,700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,829 mL
                                                                    557 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///25/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, No(t) Unable to stand
   Skin:  Warm, Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   9.1 g/dL
   205 K/uL
   115 mg/dL
   0.8 mg/dL
   25 mEq/L
   3.8 mEq/L
   12 mg/dL
   97 mEq/L
   132 mEq/L
   26.1 %
   2.9 K/uL
        [image002.jpg]
                            [**2100-11-6**]  03:32 AM
                            [**2100-11-6**]  08:53 PM
                            [**2100-11-7**]  04:18 AM
                            [**2100-11-7**]  05:50 PM
                            [**2100-11-8**]  04:41 AM
   WBC
   5.0
   3.4
   2.9
   Hct
   27.9
   27.9
   26.1
   Plt
   [**Telephone/Fax (3) 9597**]
   Cr
   0.9
   0.9
   0.9
   0.8
   0.8
   Glucose
   164
   131
   128
   122
   115
   Other labs: PT / PTT / INR:12.3/29.7/1.0, Fibrinogen:518 mg/dL,
   Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   66 y.o. woman with HIV/AIDs, component of dementia presenting with
   acute on chronic mental status changes, workup consistent with
   meningitis or meningoencephalitis with continued decline despite
   initiation of broad antiviral/antibacterial coverage guided by ID
   consultation.  MRI
 preliminary read shows no new findings to explain
   deterioration.   Exam notable for somnolence but arousable, improved
   since earlier in the morning, and vesicular rash over right
   breast/axilla/back consistent with T3 zoster. There is evidence of
   meningitis on CSF. Being covered broadly, cultures pending. MRI prelim
   shows no evidence of encephalitis. EEG will likely be done today per
   neuro
s recommendation. She is at risk of seizures. Will try to send
   CSF for cytology and [**Male First Name (un) 9577**] virus (given hx of lymphoma).
   Agree with plan as summarized in Dr [**Last Name (STitle) 9271**].
   Monitor in ICU given labile neurological status.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2100-11-6**] 08:00 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 45 minutes